US08304446B2
3-Amino-1H-indazole-4-carbonitrile
3-Fluoro-1,2-benzenedicarbonitrile (APIN) (5 g, 34.2 mmol) was dissolved in ethanol (80 mL) and hydrazine monohydrate (4.98 mL, 103 mmol) was added to the solution. The reaction was heated at 70° C. overnight. The reaction mixture was concentrated in vacuo and the residue was partitioned between ethyl acetate (200 mL) and water (200 mL). The organic layer was washed with water (100 mL). The aqueous layers were extracted with ethyl acetate (200 mL). Organic layers were combined, dried over anhydrous magnesium sulfate and evaporated in vacuo to give the title compound (4.7 g, 87%) as a yellow solid. LCMS (System A) RT=0.53 min, ES+ve m/z 159 (M+H)+.

reactant | 3-Fluoro-1,2-benzenedicarbonitrile | 34.2 mmol, 5 g | FC1=C(C(=CC=C1)C#N)C#N | C8H3FN2
reactant | hydrazine monohydrate | 103 mmol, 4.98 mL | O.NN
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 3-Amino-1H-indazole-4-carbonitrile | 4.7 g, 87% | NC1=NNC=2C=CC=C(C12)C#N | C8H6N4
